US09427442B2
Intermediate S-1A: Diethyl 2-((2,2-dichloro-3-oxocyclobutyl)methyl)malonate
To a stirred suspension of Cu.Zn (1.771 g, 13.73 mmol) and diethyl 2-allylmalonate (1.084 mL, 5.49 mmol) in anhydrous Et2O (20 mL) at reflux was added a solution of phosphorus oxychloride (1.127 mL, 12.09 mmol) and 2,2,2-trichloroacetyl chloride (1.357 mL, 12.09 mmol) in Et2O (10 mL) dropwise through an addition funnel over 2 h. The resulting mixture was then heated at reflux overnight. After cooling to room temperature, the mixture was filtered through CELITE® and washed with EtOAc. The filtrate was concentrated and the residue was purified by silica gel column chromatography (80 g, EtOAc/hexane=0-50%) to afford Intermediate S-1A (1.59 g, 93%). 1H NMR (400 MHz, chloroform-d) δ 4.32-4.23 (m, 4H), 3.58 (dd, J=8.9, 6.1 Hz, 1H), 3.47-3.32 (m, 1H), 3.16-2.92 (m, 2H), 2.51 (ddd, J=14.3, 7.2, 6.1 Hz, 1H), 2.40-2.25 (m, 1H), 1.36-1.30 (m, 6H).

reactant | diethyl 2-allylmalonate | 5.49 mmol, 1.084 mL | C(C=C)C(C(=O)OCC)C(=O)OCC | C10H16O4
reactant | phosphorus oxychloride | 12.09 mmol, 1.127 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2,2,2-trichloroacetyl chloride | 12.09 mmol, 1.357 mL | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
solvent | Et2O | 20 mL | CCOCC | C4H10O
solvent | Et2O | 10 mL | CCOCC | C4H10O
catalyst | Cu.Zn | 13.73 mmol, 1.771 g | [Cu].[Zn]
product | Diethyl 2-((2,2-dichloro-3-oxocyclobutyl)methyl)malonate | ClC1(C(CC1=O)CC(C(=O)OCC)C(=O)OCC)Cl | C12H16Cl2O5
